US04772606
8-Bromo-9-(2-thienylmethyl)guanine
N-Bromosuccinimide (2.82 g; 15.7 mmol) was added to a cold (0° C. suspension of 9-(2-thenyl)guanine (3.5 g; 14.1 mmol) in DMF (100 ml) and the mixture was stirred for 30 minutes at 0° C. and then at room temperature for 24 hours. The reaction mixture was then diluted with 75 ml of water and filtered. Recrystallization of the product from DMF gave the analytical sample, yield 3.1 g; mp 294°-295° C. (dec).

reactant | N-Bromosuccinimide | 15.7 mmol, 2.82 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 9-(2-thenyl)guanine | 14.1 mmol, 3.5 g | C1(=CC=CS1)CN1C=2N=C(NC(C2N=C1)=O)N | C10H9N5OS
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 75 ml | O | H2O
product | 8-Bromo-9-(2-thienylmethyl)guanine | BrC=1N(C=2N=C(NC(C2N1)=O)N)CC=1SC=CC1 | C10H8BrN5OS
